US04943675
Into a 500 ml reaction flask equipped with a stirrer, a thermometer, a condenser and a dropping funnel, 48.3 g (0.2 mol) of 2-anilino-4-methyl-6-acetonyl-pyrimidine and 200 ml of toluene were charged and dissolved. To this solution, 61.4 g (0.4 mol) of phosphorus oxychloride was dropwise added from the dropping funnel. The mixture was reacted at a temperature of from 88° to 90° C. for further 6 hours. The reaction mixture was cooled and put into a water/toluene solution and subjected to liquid separation. The toluene layer was washed with an aqueous sodium carbonate solution and then with water. The toluene layer was concentrated to obtain 49 g of 2-anilino-4-methyl-6-(2-chloropropen-1-yl)pyrimidine having a melting point of from 63° to 66° C. The yield was 94.4%.

reactant | 2-anilino-4-methyl-6-acetonyl-pyrimidine | 0.2 mol, 48.3 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)CC(=O)C | C14H15N3O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | phosphorus oxychloride | 0.4 mol, 61.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water toluene | O.C1(=CC=CC=C1)C
product | 2-anilino-4-methyl-6-(2-chloropropen-1-yl)pyrimidine | 49 g, yield was 94.4% | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C=C(C)Cl | C14H14ClN3
